US05252538
Preparation of diethyl 5-ethylpyridine-2,3-dicarboxylate
Diethyl ethoxymethyleneoxalacetate (3.17 g, 0.013 mol) is added to a solution of 1-morpholinobutene (1.84 g, 0.013 mol) dissolved in CH2C12 (40 mL) at 0°. The solution is concentrated in vacuo, and ammonium acetate (50 g), ammonium hydroxide (10 mL), tetrahydrofuran (20 mL) and 95% ethanol (20 mL) are added. The solution is heated to reflux for 30 minutes, then held at 3° for 72 hours. The reaction solution is then partitioned between water and ethyl acetate. The organic layer is dried over sodium sulfate and concentrated in vacuo to give the product (1.85 g, 0.0074 mol, 57%).

reactant | Diethyl ethoxymethyleneoxalacetate | 0.013 mol, 3.17 g | C(C)OC=C(C(=O)OCC)C(=O)C(=O)OCC | C11H16O6
reactant | 1-morpholinobutene | 0.013 mol, 1.84 g | O1CCN(CC1)C=CCC | C8H15NO
product | diethyl 5-ethylpyridine-2,3-dicarboxylate | 0.0074 mol, 1.85 g, 57% | C(C)C=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C13H17NO4
